US06525052B2
N-(4-Cyano-1-propyl-piperidin-4-yl)-3-cyclohexyl-2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-propionamide.
The title compound was prepared starting from 3-chloro-benzo[d]isothiazole 1,1-dioxide and 2-amino -N-(-4-cyano-1-propyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt according to the procedure from Example 10, except that the compound was further purified by HPLC using a 20×250 mm C18 reverse phase column with the method being 20% acetonitrile in water to acetonitrile. MS, m/z 486=M+1.

reactant | 3-chloro-benzo[d]isothiazole 1,1-dioxide | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 2-amino -N-(-4-cyano-1-propyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CCN(CC1)CCC)C#N)CC1CCCCC1
product | N-(4-Cyano-1-propyl-piperidin-4-yl)-3-cyclohexyl-2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-propionamide | C(#N)C1(CCN(CC1)CCC)NC(C(CC1CCCCC1)NC1=NS(C2=C1C=CC=C2)(=O)=O)=O | C25H35N5O3S
